US05668291
2,2'-Dithiobis[N-[3-(trifluoromethyl)phenyl]benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 3-aminobenzotrifluoride (1.87 g, 11.6 mmol) in 15 mL of pyridine. The crude product was recrystallized from ethanol, then ethyl ether to yield 0.519 g of the title compound, mp 167°-68° C.

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 3-aminobenzotrifluoride | 11.6 mmol, 1.87 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-Dithiobis[N-[3-(trifluoromethyl)phenyl]benzamide] | 0.519 g | FC(C=1C=C(C=CC1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC=C1)=O)(F)F | C28H18F6N2O2S2
